US07141583B2
4-(4-Benzyloxycarbonylamino-2,6-difluorophenyl)-5,6-dihydro-2H-thiopyran
4-(4-Amino-2,6-difluorophenyl)-5,6-dihydro-2H-thiopyran (15.0 g, 66 mM) was dissolved in dry dichloromethane (250 ml), pyridine (9.45 g, 113 mM) added, and the whole stirred under nitrogen at −20°. Benzyl chloroformate (17.1 g, 100 mM) in dry dichloromethane (25 ml) was added dropwise, and the mixture allowed to warm to ambient over 18 hours. The mixture was washed with hydrochloric acid (1M, 2×200 ml), then brine (200 ml) and dried (magnesium sulfate). Evaporation to a small volume and dilution with isohexane gave the desired product as a white solid (22.5 g).

reactant | 4-(4-Amino-2,6-difluorophenyl)-5,6-dihydro-2H-thiopyran | 66 mM, 15.0 g | NC1=CC(=C(C(=C1)F)C1=CCSCC1)F | C11H11F2NS
reactant | pyridine | 113 mM, 9.45 g | N1=CC=CC=C1 | C5H5N
reactant | Benzyl chloroformate | 100 mM, 17.1 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 4-(4-Benzyloxycarbonylamino-2,6-difluorophenyl)-5,6-dihydro-2H-thiopyran | 22.5 g | C(C1=CC=CC=C1)OC(=O)NC1=CC(=C(C(=C1)F)C1=CCSCC1)F | C19H17F2NO2S
